US08372864B2
10.1.1: 1-(1-Bromoethyl)-4-fluorobenzene
0.5 g of 1-(4-fluorophenyl)ethanol is dissolved in 20 cm3 of dichloromethane, under an inert atmosphere, at a temperature close to 20° C. 1.24 cm3 of pure bromo(trimethyl)silane are introduced in two lots to the reaction mixture. The latter is stirred at a temperature close to 20° C. for 48 h, then it is washed with a saturated aqueous solution of sodium chloride, dried over a phase separation cartridge and concentrated using a rotary evaporator under reduced pressure (5 kPa). The 700 mg of crude product obtained are purified by filtration through a silica pellet (eluent: 10% ethyl acetate/90% cyclohexane). After concentrating the fractions under reduced pressure, 439 mg of 1-(1-bromoethyl)-4-fluorobenzene are obtained in the form of a colorless thick oil.

reactant | 1-(4-fluorophenyl)ethanol | 0.5 g | FC1=CC=C(C=C1)C(C)O | C8H9FO
reactant | bromo(trimethyl)silane | 1.24 cm3 | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 1-(1-Bromoethyl)-4-fluorobenzene | 700 mg | BrC(C)C1=CC=C(C=C1)F | C8H8BrF
